US08791139B2
10.41 g (54.9 mmol) of tin(II) chloride were initially charged in 80 ml of ethanol, 3.20 g (11.3 mmol) of methyl 1-(3-chloropyridin-2-yl)-3-nitro-1H-pyrazole-5-carboxylate were added and the mixture was stirred at reflux temperature for 3 hours. After cooling, the reaction mixture was poured onto ice and adjusted to pH 12 with sodium bicarbonate. The aqueous phase was extracted repeatedly with ethyl acetate and dried over magnesium sulphate. The solvent was distilled off under reduced pressure and the residue was chromatographed on silica gel, which gave 2.20 g (71% of theory) of methyl 3-amino-1-(3-chloropyridin-2-yl)-1H-pyrazole-5-carboxylate (log P: 1.09; MH+: 253.1); 1H-NMR (400 MHz, CD3CN, δ, ppm): 3.66 (s, 3H), 5.20 (s, 2H), 6.25 (s, 1H), 7.56 (m, 1H), 8.15 (d, 1H), 8.47 (m, 1H).)

reactant | tin(II) chloride | 54.9 mmol, 10.41 g | [Sn](Cl)Cl
reactant | methyl 1-(3-chloropyridin-2-yl)-3-nitro-1H-pyrazole-5-carboxylate | 11.3 mmol, 3.20 g | ClC=1C(=NC=CC1)N1N=C(C=C1C(=O)OC)[N+](=O)[O-] | C10H7ClN4O4
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethanol | 80 ml | C(C)O | C2H6O
product | methyl 3-amino-1-(3-chloropyridin-2-yl)-1H-pyrazole-5-carboxylate | 2.20 g, 71% | NC1=NN(C(=C1)C(=O)OC)C1=NC=CC=C1Cl | C10H9ClN4O2
